US04752645
(E) 1,3,4,5-Tetrahydro-4-(methoxyphenyl)-3-methyl-7-(trifluoromethyl)-2H-1-benzazepin-2-one
Lithium iodide (5.26 g; 39.3 mmole) was added to 1,3,4,5-tetrahydro-3-(methoxycarbonyl)-4-(methoxyphenyl)-3-methyl-7-(trifluoromethyl)-2H-1-benzazepin-2-one (4.00 g; 9.82 mmole) in pyridine (40 ml) (five drops of water were added) and the mixture was refluxed with stirring for 8.5 hours. The solution was dissolved in ethyl acetate and washed with 1N hydrochloric acid (three times). The organic layer was dried (magnesium sulfate) and concentrated giving 3.43 g of the title compound as a solid.

reactant | Lithium iodide | 39.3 mmole, 5.26 g | [I-].[Li+]
reactant | 1,3,4,5-tetrahydro-3-(methoxycarbonyl)-4-(methoxyphenyl)-3-methyl-7-(trifluoromethyl)-2H-1-benzazepin-2-one | 9.82 mmole, 4.00 g | COC(=O)C1(C(NC2=C(CC1C1=C(C=CC=C1)OC)C=C(C=C2)C(F)(F)F)=O)C | C21H20F3NO4
catalyst | pyridine | 40 ml | N1=CC=CC=C1 | C5H5N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1,3,4,5-Tetrahydro-4-(methoxyphenyl)-3-methyl-7-(trifluoromethyl)-2H-1-benzazepin-2-one | 3.43 g | COC1=C(C=CC=C1)C1C(C(NC2=C(C1)C=C(C=C2)C(F)(F)F)=O)C | C19H18F3NO2
